US08211908B2
To a solution of 13 g of (3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-yl)methanol in 250 mL of chloroform, 13 g of manganese dioxide was added, and the mixture was stirred at room temperature for 30 minutes. Thereto was further added 20 g of manganese dioxide dividedly, the mixture was then stirred at room temperature for 20 minutes and at 60 to 70° C. for 1 hour 30 minutes. The reaction mixture was cooled to room temperature, the insoluble substance was then filtered off, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=1:1 to obtain 2.2 g of 3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridine-8-carbaldehyde as a light yellowish white solid.

reactant | (3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridin-8-yl)methanol | 13 g | O1CCCOC=2C=NC(=CC21)CO | C9H11NO3
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 13 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 20 g | [O-2].[O-2].[Mn+4]
product | 3,4-dihydro-2H-(1,4)dioxepino(2,3-c)pyridine-8-carbaldehyde | 2.2 g | O1CCCOC=2C=NC(=CC21)C=O | C9H9NO3
